US07589206B2
1-[7-(3-Fluoro-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-piperidin-1-yl-methanone hydrochloride salt
Prepared in a similar manner to Example 4(d) from 7-chloro-3-methyl-4-(1-piperidin-1-yl-methanoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester (90 mg) and using 3-fluoroaniline (46 ul) instead of 3-bromoaniline and heating for 15 rather than 30 minutes. Isolated by MDAP rather than trituration with diethyl ether and then dissolved in diethyl ether (10 ml) and treated with a solution of 1M hydrochloric acid in diethyl ether (10 drops). The mixture was evaporated and dried at 40° C. under vacuum to afford the title compound (17 mg).

reactant | 7-chloro-3-methyl-4-(1-piperidin-1-yl-methanoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester | 90 mg | C(C)(C)(C)OC(=O)N1C=C(C=2C1=C(N=CC2C(=O)N2CCCCC2)Cl)C | C19H24ClN3O3
reactant | 3-fluoroaniline | 46 ul | FC=1C=C(N)C=CC1 | C6H6FN
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
catalyst | diethyl ether | 10 drops | C(C)OCC | C4H10O
product | 1-[7-(3-Fluoro-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-piperidin-1-yl-methanone hydrochloride salt | 17 mg | Cl.FC=1C=C(C=CC1)NC=1N=CC(=C2C1NC=C2C)C(=O)N2CCCCC2 | InChI=1S/C20H21FN4O.ClH/c1-13-11-22-18-17(13)16(20(26)25-8-3-2-4-9-25)12-23-19(18)24-15-7-5-6-14(21)10-15;/h5-7,10-12,22H,2-4,8-9H2,1H3,(H,23,24);1H
